US03981868
Preparation of 2-(formylmethyl)-3-(1-trans octenyl)-1,1-dioxolano-cyclopentane
To a solution of 1.00 g. (0.00308 mole) of 2-(carbethoxymethyl)-3-(1-trans-octenyl)-1,1-dioxolano cyclopentane in 5 ml. of heptane at -78°C. and under nitrogen is added dropwise 2.60 ml. of a solution of 25% diisobutylaluminum hydride in hexane. The resulting solution is stirred at -78°C. for 2.5 hours and then poured into cold dilute hydrochloric acid. The organic phase is washed with saturated brine, dried (Na2SO4), and evaporated to yield 0.863 g. of a colorless oil. IR 2695, 1723, 1045, 970 cm-1.

reactant | 2-(carbethoxymethyl)-3-(1-trans-octenyl)-1,1-dioxolano cyclopentane | 0.00308 mole | C(=O)(OCC)CC1C(C2C(CCC2)O1)\C=C\CCCCCC | C19H32O3
reactant | heptane | CCCCCCC | C7H16
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
product | 2-(formylmethyl)-3-(1-trans octenyl)-1,1-dioxolano-cyclopentane | C(=O)CC1C(C2C(CCC2)O1)\C=C\CCCCCC | C17H28O2
